US09278910B2
Prepared using General Procedure 9: To a stirred solution of methyl 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinate INT-14 (74 mg, 0.2 mmol) in MeOH (1 mL) and THF (4 mL) was added 2 N NaOH (1 mL). The reaction mixture was stirred at room temperature overnight then concentrated. The residue was diluted with water (1 mL) and acidified with 1 N HCl to a pH of 2. The resulting precipitate was isolated by filtration and the filter cake was washed with water. Crude product was dried under vacuum to afford 48 mg (67%) of 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinic acid INT-15 which was used in the next step without purification. LCMS-ESI (m/z) calculated C16H13F3N2O4: 354; found 355, tR=2.66 min (Method 1). 1H NMR (400 MHz, DMSO) δ 10.71 (s, 1H), 8.83 (d, J=2.2 Hz, 1H), 8.18 (dd, J=8.6, 2.5 Hz, 1H), 8.02 (d, J=8.6 Hz, 1H), 7.46 (d, J=8.5 Hz, 1H), 7.29-7.10 (m, 2H), 3.92 (s, 2H), 3.82 (d, J=5.3 Hz, 3H), 3.35 (s, 1H).

reactant | methyl 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinate | COC1=CC(=C(C=C1)CC(=O)NC=1C=CC(=NC1)C(=O)OC)C(F)(F)F | C17H15F3N2O4
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | NaOH | 2 N, 1 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinic acid | 48 mg, 67% | COC1=CC(=C(C=C1)CC(=O)NC=1C=CC(=NC1)C(=O)O)C(F)(F)F | C16H13F3N2O4
